US04486428
8-Hydroxy-1-trifluoroacetylaminomethyl-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin
To a suspension of 114 mg. (3 mmole) lithium aluminum hydride in 10 ml. ethyl ether at room temperature is added a solution of 1.36 g. (3.0 mmole) 8-benzyloxy-1-cyano-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin in 10 ml. tetrahydrofuran and the mixture is heated at reflux for two hours. After cooling to 0° C. 30 ml. ether is added and the reaction is quenched by addition of 150 ml. water, 150 ml. sodium hydroxide. Another 450 ml. water is added, the mixture is stirred for 15 minutes, filtered, washing with ether and the separated organic layer is dried (MgSO4) and concentrated to about 50 ml. volume. To this solution of crude amine 0.70 ml. triethylamine and 565 microliters (4.0 mmole) trifluoroacetic anhydride is added over a 15 minute period at room temperature. The mixture is then diluted with 50 ml. ether and washed with 10% hydrochloric acid (25 ml.), water (25 ml.), saturated sodium bicarbonate solution, brine and dried (MgSO4). Evaporation of solvent and column chromatography of the residue on silica gel eluting with methanol/methylene chloride 1:9 gives 500 mg. of the benzyl ether of the title compound which is debenzylated by the method of Example 89, Part C, to afford 250 mg. of oil. Mass spectrum (m/e): 367, 337, 191, 91, 69. 1H-NMR (CDCl3) ppm (delta): 0.7 (s, 3H), 0.8 (s, 3H), 1.1 (d, 3H), 1.2-2.0 (m, 6H), 2.0-3.0 (m, 7H), 4.0 (m, 1H), 5.8-6.0 (m, 2H), 6.1 (NH), 7.0 (s, 5H).

reactant | lithium aluminum hydride | 3 mmole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-benzyloxy-1-cyano-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin | 3.0 mmole | C(C1=CC=CC=C1)OC=1C=C(C=C2CC(CC(C12)C#N)(C)C)OC(C)CCCC1=CC=CC=C1 | C31H35NO2
reactant | trifluoroacetic anhydride | 4.0 mmole, 565 microliters | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 8-Hydroxy-1-trifluoroacetylaminomethyl-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin | OC=1C=C(C=C2CC(CC(C12)CNC(C(F)(F)F)=O)(C)C)OC(C)CCCC1=CC=CC=C1 | C26H32F3NO3
